US07829560B2
3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(tetrahydrofuran-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B327).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and C-(tetrahydro-furan-2-yl)-methylamine according to conditions described in general procedure C.

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | C-(tetrahydro-furan-2-yl)-methylamine | O1C(CCC1)CN | C5H11NO
product | 3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(tetrahydrofuran-2-ylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCC2OCCC2)C=C(C1)N1CCOCC1 | C30H30FN5O4
